US06020340
1. 2-[7-Methoxy-2-(1-methylethyl)benzofuran-4-yl]imidazo[4,5-b]pyridine
4.6 g of 7-methoxy-2-(1-methylethyl)benzofuran-4-carboxylic acid and 2.2 g of 2,3-diaminopyridine are boiled under reflux for 4 h in 80 ml of phosphorus oxychloride. The mixture is largely evaporated in vacuo, the residue is partitioned between 100 ml of ice water and 500 ml of ethyl acetate and the aqueous phase is rendered alkaline with 50 percent sodium hydroxide solution. The organic phase is separated off, the aqueous phase is extracted a further two times by shaking with ethyl acetate, and the organic phases are combined, dried over ignited calcium carbonate and concentrated in vacuo. The residue is chromatographed on silica gel using a 1:1 mixture of toluene and ethyl acetate. After the evaporation of appropriate fractions, 1.7 g (28.3% of theory) of title compound having the m.p. 242° C. are obtained.

reactant | 7-methoxy-2-(1-methylethyl)benzofuran-4-carboxylic acid | 4.6 g | COC=1C=CC(=C2C=C(OC21)C(C)C)C(=O)O | C13H14O4
reactant | 2,3-diaminopyridine | 2.2 g | NC1=NC=CC=C1N | C5H7N3
solvent | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[7-Methoxy-2-(1-methylethyl)benzofuran-4-yl]imidazo[4,5-b]pyridine | COC1=CC=C(C=2C=C(OC21)C(C)C)C=2NC=1C(=NC=CC1)N2 | C18H17N3O2
